US07585874B2
f) 2-(5-Cyclopropyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine
A mixture of 2-bromo-1-(5-cyclopropyl-3-phenyl-isoxazol-4-yl)-ethanone (91.8mg, 0.3 mmol) and 2-aminopyridine (28.2 mg, 0.3 mmol) in ethanol (2 mL) containing hydrobromic acid (48%, 16.9 μL, 0.8 mmol) was heated under reflux under argon for 2 h. Another portion of 2-aminopyridine (28.2 mg, 0.3 mmol) was added and heating continued under reflux under argon for 1 h. After cooling to room temperature, the mixture was evaporated and poured onto saturated sodium hydrogen carbonate and extracted with ethyl acetate. The combined organic layers were then washed with water and brine, dried over sodium sulphate and evaporated to leave a yellow oil. Purification by chromatography (SiO2, heptane:ethyl acetate: 100:0 to 50:50) afforded the title compound (49 mg, 54%) which was obtained as an off-white solid. MS: m/e=302.1 [M+H]+.

reactant | 2-bromo-1-(5-cyclopropyl-3-phenyl-isoxazol-4-yl)-ethanone | 0.3 mmol, 91.8mg | BrCC(=O)C=1C(=NOC1C1CC1)C1=CC=CC=C1 | C14H12BrNO2
reactant | 2-aminopyridine | 0.3 mmol, 28.2 mg | NC1=NC=CC=C1 | C5H6N2
reactant | hydrobromic acid | 0.8 mmol, 16.9 μL | Br | BrH
reactant | 2-aminopyridine | 0.3 mmol, 28.2 mg | NC1=NC=CC=C1 | C5H6N2
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-(5-Cyclopropyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 49 mg, 54% | C1(CC1)C1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=CC=C2)C1 | C19H15N3O
